US06297259B1
N-Methyl-N-(4-(4-(1-(fur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-phenylbutyl)benzamide
Prepare by the method of Example 1.7 using N-methyl-N-(2-phenyl-4-methanesulfonylbutyl)benzamide and 4-(1-(fur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine to give the title compound.

reactant | N-methyl-N-(2-phenyl-4-methanesulfonylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCS(=O)(=O)C)C1=CC=CC=C1 | C19H23NO3S
reactant | 4-(1-(fur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidine | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C18H19N3O2
product | N-Methyl-N-(4-(4-(1-(fur-2-ylmethyl)-1H-benzimidazole-2-carbonyl)piperidin-1-yl)-2-phenylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(=O)C1=NC2=C(N1CC=1OC=CC1)C=CC=C2)C2=CC=CC=C2 | C36H38N4O3
